US07786165B2
5-phenoxyindan-1-one
To a solution of 5-hydroxyindan-1-one (2.00 g, 13.5 mmol) in N,N-dimethylformamide (25 mL) was added sodium hydride (60% in oil, 0.596 mg, 14.9 mmol) and the mixture was stirred at 90° C. for 1 hr. Diphenyliodonium chloride (4.72 g, 14.9 mmol) was added to the mixture, and the mixture was stirred at the same temperature for 16 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate/hexane) to give the title compound (1.63 g, yield 54%) as a pale-yellow oil.

reactant | 5-hydroxyindan-1-one | 13.5 mmol, 2.00 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | sodium hydride | 14.9 mmol, 0.596 mg | [H-].[Na+]
reactant | Diphenyliodonium chloride | 14.9 mmol, 4.72 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-phenoxyindan-1-one | 1.63 g, yield 54% | O(C1=CC=CC=C1)C=1C=C2CCC(C2=CC1)=O | C15H12O2
